US05017703
1-[2-{5-(4-hydroxy-3, 5-dimethoxyphenyl)-(2E, 4E)-2, 4pentadienoylamino}ethyl]-4-(3-indolyl)piperidine (4.5 g) was dissolved in a mixture of methanol (90 ml), 1N hydrochloric acid (18.9 ml) and water (19.8 ml), and water (51.3 ml) was dropwise added thereto to ambient temperature. The resulting precipitate was collected by filtration, washed with ethanol (9 ml) and dried to give 1-[2-{5-(4-hydroxy-3, 5-dimethoxyphenyl)-(2E, 4E)-2, 4-pentadienoylamino}ethyl]-4-(3-indolyl)piperidine hydrochloride (4.30 g).

reactant | 1-[2-{5-(4-hydroxy-3, 5-dimethoxyphenyl)-(2E, 4E)-2, 4pentadienoylamino}ethyl]-4-(3-indolyl)piperidine | 4.5 g | OC1=C(C=C(C=C1OC)/C=C/C=C/C(=O)NCCN1CCC(CC1)C1=CNC2=CC=CC=C12)OC | C28H33N3O4
reactant | hydrochloric acid | 1N, 18.9 ml | Cl | ClH
solvent | methanol | 90 ml | CO | CH4O
solvent | water | 19.8 ml | O | H2O
solvent | water | 51.3 ml | O | H2O
product | 1-[2-{5-(4-hydroxy-3, 5-dimethoxyphenyl)-(2E, 4E)-2, 4-pentadienoylamino}ethyl]-4-(3-indolyl)piperidine hydrochloride | 4.30 g | Cl.OC1=C(C=C(C=C1OC)/C=C/C=C/C(=O)NCCN1CCC(CC1)C1=CNC2=CC=CC=C12)OC | InChI=1S/C28H33N3O4.ClH/c1-34-25-17-20(18-26(35-2)28(25)33)7-3-6-10-27(32)29-13-16-31-14-11-21(12-15-31)23-19-30-24-9-5-4-8-22(23)24;/h3-10,17-19,21,30,33H,11-16H2,1-2H3,(H,29,32);1H/b7-3+,10-6+;
